US07834019B2
1) Production of 1-(3-bromophenyl)-2-methylpropan-1-ol
With cooling with ice, 150 mL of 1.0 M isopropylmagnesium chloride/tetrahydrofuran solution was added to tetrahydrofuran (200 mL) solution of 21.9 g of 3-bromobenzaldehyde. 4 N hydrochloric acid was added to the reaction liquid, extracted with diethyl ether, and washed with saturated sodium hydrogencarbonate solution and saturated saline water in that order. This was dried with anhydrous magnesium sulfate, the solvent was evaporated away under reduced pressure, and the resulting residue was purified through silica gel column chromatography (hexane/ethyl acetate=19/1 to 4/1) to obtain 4.20 g of the entitled compound as an oily substance.

reactant | isopropylmagnesium chloride tetrahydrofuran | 1.0 M, 150 mL | C(C)(C)[Mg]Cl.O1CCCC1
reactant | 3-bromobenzaldehyde | 21.9 g | BrC=1C=C(C=O)C=CC1 | C7H5BrO
reactant | hydrochloric acid | 4 N | Cl | ClH
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | 1-(3-bromophenyl)-2-methylpropan-1-ol | 4.20 g | BrC=1C=C(C=CC1)C(C(C)C)O | C10H13BrO
